US06858651B2
In analogy to examples 31.5 and 31.6, trans-Methanesulfonic acid 4-(4-methylamino-cyclohexyl)-butyl ester.trifluoro-acetic acid and 4-trifluoromethyl-phenyl-sulfonylchloride were reacted, followed by treatment with 2-(2-Hydroxy-ethylamino)-ethanol to give trans N-(4-{4-[Bis-(2-hydroxy-ethyl)-amino]-butyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 481 (MH+).

reactant | trans-Methanesulfonic acid 4-(4-methylamino-cyclohexyl)-butyl ester | CN[C@@H]1CC[C@H](CC1)CCCCOS(=O)(=O)C | C12H25NO3S
reactant | trifluoro-acetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-trifluoromethyl-phenyl-sulfonylchloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 2-(2-Hydroxy-ethylamino)-ethanol | OCCNCCO | C4H11NO2
product | trans N-(4-{4-[Bis-(2-hydroxy-ethyl)-amino]-butyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | OCCN(CCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)CCO | C22H35F3N2O4S
